US04474814
Preparation of 3-(3,5-dinitrobenzoyl)-1,3-thiazolidine-2-thione
To 15 ml of dimethylformamide were dissolved 3,5-dinitrobenzoyl chloride (2.5 g) and 1,3-thiazolidine-2-thione (1.3 g). To the solution was added dropwise a solution of triethyl amine (1.2 g) and dimethylformamide (2 ml) under ice-cooling. The mixture was stirred under ice-cooling for 1 hour and at room temperature for 5 hours. The reaction mixture was filtered and the solvent was removed at a reduced pressure. To the residue was added water and the insolubles were filtered off. The filtrate was washed with cold methanol and then with ether to obtain crude crystals. Recrystallization from toluene gives 2.4 g of the desired compound as yellow needle crystals (yield 76.7%).

reactant | 3,5-dinitrobenzoyl chloride | 2.5 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=C(C1)[N+](=O)[O-] | C7H3ClN2O5
reactant | 1,3-thiazolidine-2-thione | 1.3 g | S1C(NCC1)=S | C3H5NS2
reactant | triethyl amine | 1.2 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 3-(3,5-dinitrobenzoyl)-1,3-thiazolidine-2-thione | 2.4 g | [N+](=O)([O-])C=1C=C(C(=O)N2C(SCC2)=S)C=C(C1)[N+](=O)[O-] | C10H7N3O5S2
